US06777428B1
4-[3-(methylthioureido)benzoyl]-1-methylpiperidine
Following the example above and beginning with 4-[3-aminobenzoyl]-1-methylpiperidine (25 mg, 0.115 mmol) and methyl isothiocyanate (124 μL, 1.813 mmol), 22.0 mg (66%) of the title compound were recovered.

reactant | 4-[3-aminobenzoyl]-1-methylpiperidine | 0.115 mmol, 25 mg | NC=1C=C(C(=O)C2CCN(CC2)C)C=CC1 | C13H18N2O
reactant | methyl isothiocyanate | 1.813 mmol, 124 μL | CN=C=S | C2H3NS
product | 4-[3-(methylthioureido)benzoyl]-1-methylpiperidine | 22.0 mg, 66% | CNC(NC=1C=C(C(=O)C2CCN(CC2)C)C=CC1)=S | C15H21N3OS
